US04590195
4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-{2-[(2-chloro-5-pyridyl)sulphonamido]ethoxymethyl}-1,4-dihydropyridine
A solution of 2-(2-aminoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (409 mg) and triethylamine (202 mg) in dry dichloromethane (20 ml) was stirred under nitrogen and cooled in an ice-bath while a solution of 2-chloro-5-pyridinesulphonyl chloride (212 mg) in dry dichloromethane (10 ml) was added dropwise. The reaction mixture was allowed to warm to room temperature and stirring continued for a further 3 hours. The solvent was evaporated and the residue chromatographed on silica, eluting with dichloromethane. Appropriate fractions were combined and evaporated and the residue recrystallised from ethyl acetate to give the title compound (320 mg), m.p. 140°-140.5° C. Found: C, 51,27; H, 4.63; N, 7.25. C25H27Cl2N3O7 requires C, 51.37; H, 4.66; N, 7.19%.

reactant | 2-(2-aminoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 409 mg | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C20H25ClN2O5
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5-pyridinesulphonyl chloride | 212 mg | ClC1=NC=C(C=C1)S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-{2-[(2-chloro-5-pyridyl)sulphonamido]ethoxymethyl}-1,4-dihydropyridine | 320 mg | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNS(=O)(=O)C=1C=CC(=NC1)Cl)C(=O)OCC | C25H27Cl2N3O7S
